US04647560
7-Chloro-5-phenyl-1'-benzyl-1-methyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one
3.0 g (0.0069 mole) of 7-chloro-5-phenyl-1'-benzyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one are dissolved in 25 ml of absolute dimethylformamide, and 0.3 g (0.007 mole) of sodium hydride (55-60% strength dispersion) is added at 20° C. After the mixture has been stirred for 20 minutes, it is cooled to 0° C., a solution of 1.0 g (0.0065 mole) of methyl iodide in 5 ml of absolute dimethylformamide is added dropwise and the mixture is stirred at 25° C. for 3 hours. The solvent is distilled off and the residue is purified by column chromatography over silica gel 60 (Merck). After the column has been eluted with methylene chloride/methanol (9:1), the oily base is obtained, which slowly crystallizes completely. Colorless crystals of melting point 169°-170° C.

reactant | 7-chloro-5-phenyl-1'-benzyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one | 0.0069 mole, 3.0 g | ClC=1C=CC2=C(C(=NC3(CCN(CC3)CC3=CC=CC=C3)C(N2)=O)C2=CC=CC=C2)C1 | C26H24ClN3O
reactant | sodium hydride | 0.007 mole, 0.3 g | [H-].[Na+]
reactant | methyl iodide | 0.0065 mole, 1.0 g | CI | CH3I
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 7-Chloro-5-phenyl-1'-benzyl-1-methyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one | ClC=1C=CC2=C(C(=NC3(CCN(CC3)CC3=CC=CC=C3)C(N2C)=O)C2=CC=CC=C2)C1 | C27H26ClN3O
